US05266554
A mixture of 3.0 g of finely pulverised 2-cyano-5-[3,6-dihydro-3,4-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-4-fluorobenzoic acid, 30 ml of freshly distilled thionyl chloride and 3 drops of dimethylformamide is heated at reflux temperature for 1 hour with stirring, after which a clear solution has formed. The mixture is then concentrated to dryness by evaporation to yield 2-cyano-5-[3,6-dihydro-3,4-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-4-fluorobenzoic acid chloride, m.p. 160° C., which is used, unpurified, as the starting material in the next reaction step.

reactant | 2-cyano-5-[3,6-dihydro-3,4-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-4-fluorobenzoic acid | C(#N)C1=C(C(=O)O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C)C)=O | C14H10FN3O4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
product | 2-cyano-5-[3,6-dihydro-3,4-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-4-fluorobenzoic acid chloride | C(#N)C1=C(C(=O)Cl)C=C(C(=C1)F)N1C(N(C(=CC1=O)C)C)=O | C14H9ClFN3O3
